US05834501
2-(3-Hydroxypropyl)-3-methylimidazo[5,4-b]pyridine
A procedure similar to that described in Preparation 15 was repeated, except that 3.40 g of 2-(3-hydroxy-propyl)-3H-imidazo[5,4-b]pyridine (prepared as described in Preparation 33), 0.81 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 1.2 ml of methyl iodide and 100 ml of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatograpy through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent. The product was crystallized by trituration with ethyl acetate, to give 3.10 g of the title compound, melting at >300° C.

reactant | 2-(3-hydroxy-propyl)-3H-imidazo[5,4-b]pyridine | 3.40 g | OCCCC=1NC2=NC=CC=C2N1 | C9H11N3O
reactant | sodium hydride | 0.81 g | [H-].[Na+]
reactant | methyl iodide | 1.2 ml | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3-Hydroxypropyl)-3-methylimidazo[5,4-b]pyridine | OCCCC=1N(C2=NC=CC=C2N1)C | C10H13N3O
